### PR TITLE
feat: better `List.take_drop` and `List.drop_take`

### PR DESCRIPTION
**Pull request by fgdorais**
These non-simp lemmas are easier to use in rewrites.

As discussed on Zulip: <https://leanprover.zulipchat.com/#narrow/stream/348111-std4/topic/RFC.3A.20.60List.2Etake_drop.60.20and.20.60List.2Edrop_take.60/near/428435321>

### CODE REVIEW

File: Std/Data/List/Lemmas.lean [hunk 1]
```diff
@@ -1108,12 +1110,16 @@ theorem get?_drop (L : List α) (i j : Nat) : get? (L.drop i) j = get? L (i + j)
...
-theorem drop_take : ∀ (m n : Nat) (l : List α), drop m (take (m + n) l) = take n (drop m l)
-  | 0, n, _ => by simp
-  | m + 1, n, nil => by simp
-  | m + 1, n, _ :: l => by
-    have h : m + 1 + n = m + n + 1 := by rw [Nat.add_assoc, Nat.add_comm 1 n, ← Nat.add_assoc]
-    simpa [take_cons_succ, h] using drop_take m n l
+theorem take_drop : ∀ (m n : Nat) (l : List α), take n (drop m l) = drop m (take (m + n) l)
+  | 0, _, _ => by simp
+  | _, _, [] => by simp
+  | _+1, _, _ :: _ => by simp [Nat.succ_add, take_succ_cons, drop_succ_cons]; exact take_drop ..
```
Comment (Seppel3210) [inline Std/Data/List/Lemmas.lean:1116]: I think this is more nicely written as `simpa … using …` like before
```suggestion
  | _+1, _, _ :: _ => by simpa [Nat.succ_add, take_succ_cons, drop_succ_cons] using take_drop ..
```

File: Std/Data/List/Lemmas.lean [hunk 2]
```diff
@@ -1108,12 +1110,16 @@ theorem get?_drop (L : List α) (i j : Nat) : get? (L.drop i) j = get? L (i + j)
...
+
+theorem drop_take : ∀ (m n : Nat) (l : List α), drop n (take m l) = take (m - n) (drop n l)
+  | 0, _, _ => by simp
+  | _, 0, _ => by simp
+  | _, _, [] => by simp
+  | _+1, _+1, _ :: _ => by simp [take_succ_cons, drop_succ_cons]; exact drop_take ..
```
Comment (Seppel3210) [inline Std/Data/List/Lemmas.lean:1122]:
```suggestion
  | _+1, _+1, _ :: _ => by simpa [take_succ_cons, drop_succ_cons] using drop_take ..
```
